US06924278B2
A solution of di-tert-butyl dicarbonate (1.99 g) in tetrahydrofuran (20 ml) was added dropwise to a mixture of 2-(3-methoxybenzyl)piperazine (1.88 g) and triethylamine (1.90 ml) in tetrahydrofuran (19 ml) with ice-water cooling. After 1 hour of stirring, ethyl acetate (100 ml) and water (50 ml) were added to the mixture. The organic layer was separated, washed with brine, dried over sodium sulfate, and evaporated in vacuo. The residue was purified by column chromatography on silica gel using a mixture-of dichloromethane and methanol (40:1) to give 2-(3-methoxybenzyl)-4-(tert-butoxycarbonyl)piperazine (1.18 g) as an oil.

reactant | di-tert-butyl dicarbonate | 1.99 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2-(3-methoxybenzyl)piperazine | 1.88 g | COC=1C=C(CC2NCCNC2)C=CC1 | C12H18N2O
reactant | triethylamine | 1.90 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 19 ml | O1CCCC1 | C4H8O
solvent | water | 50 ml | O | H2O
product | 2-(3-methoxybenzyl)-4-(tert-butoxycarbonyl)piperazine | 1.18 g | COC=1C=C(CC2NCCN(C2)C(=O)OC(C)(C)C)C=CC1 | C17H26N2O3
